US07897595B2
6) 3-Chloro-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine
A mixture of 2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (100 mg, 347 μmol), PCl5 (722 mg, 3.47 mmol) and POCl3 (10 ml) was heated at 125° C. in a sealed tube for 16 h. The reaction mixture was parted between DCM and sat. aq. NaHCO3. The organic phase was washed with brine, dried over Na2SO4 and concentrated in vacuo. Chromatographic purification rendered 23.5 mg (21%) of 3-chloro-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. A mixture of 3-chloro-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (23.5 mg, 72.8 μmol) and K2CO3 (30 mg) in MeOH (7 ml) was heated at reflux for 2 h. The reaction mixture was concentrated in vacuo and chromatographic purification of the resulting residue rendered 11.2 mg (68%) of 3-chloro-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 7.48 (s, 1H), 3.99 (s, 3H), 3.55-3.30 (m, 4H), 3.25 (m, 1H), 3.07 (m, 1H), 2.85 (dd, 1H), 1.43 (d, 3H) ppm.

reactant | 2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 347 μmol, 100 mg | COC=1C=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N1 | C13H15F3N2O2
reactant | PCl5 | 3.47 mmol, 722 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | POCl3 | 10 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 3-chloro-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 72.8 μmol, 23.5 mg | ClC1=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N=C1OC | C13H14ClF3N2O2
reactant | K2CO3 | 30 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 7 ml | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-Chloro-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | ClC1=CC2=C(CCNCC2C)N=C1OC | C11H15ClN2O
